Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
___: LINQ placement

 
History of Present Illness:
Ms. ___ is a ___ woman with h/o lung cancer s/p left upper
lobectomy, paroxysmal AFib on Apixaban, h/o syncope, who
presented with syncope and was subsequently found to have AFib
with RVR as well as UTI. 

Per ED Dashboard: "Patient was seen at ___ clinic this morning
for scheduled checkup of lung cancer. She was feeling well. Stop
for lunch with her daughter. Patient had syncopal event noted
hypotension at that time. EMS responded, mentating well, 
however,
they were unable to palpate a pulse. Given small fluid bolus and
transferred to ___ for evaluation. She notes shortness of
breath on arrival. She reports that she has known history of
syncope. Denies fevers or chills. No nausea or vomiting. No
change in bowel or bladder function. No new rashes, lesions,
wounds. No history of DVT or PE. Denies previous history of
cardioversion. No calf swelling or tenderness. No rate control
medication or history of CHF."
 
Past Medical History:
Stage IIIA NSLC left lung s/p neo adjuvant chemotherapy, LUL
resection and post-operative radiation
Paroxysmal atrial fibrillation 
Recurrent syncopal events 
Chronic cough ___ post-operative bronchial kinking with
expiration
Hypothyroidism
Osteopenia c/b L sacral fracture, T7 compression fractures 
(___)
LBP ___ Spinal stenosis and LS spondylosis
 
Social History:
___
Family History:
Brother: HEALTHY       
Daughter: ___ DISEASE              
Son: ___ DISEASE              
Son: ___ DISEASE 
 
Physical Exam:
GENERAL: Alert and interactive older woman in NAD. 
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. 
CARDIAC: RRR - No murmurs/rubs/gallops.
RESP: +L sided diminished breaths with sparse crackles; R side
CTA
ABDOMEN: +BS, non distended, non-tender to deep palpation in all
four quadrants. No organomegaly.
MSK: No CVA tenderness. Trace L leg edema (chronic and unchanged
per patient), no RLE edema.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
PSYCH: appropriate mood and affect
 
Pertinent Results:
___ 06:35PM URINE  HOURS-RANDOM
___ 06:35PM URINE  UHOLD-HOLD
___ 06:35PM URINE  COLOR-Yellow APPEAR-HAZY* SP ___
___ 06:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.5 
LEUK-LG*
___ 06:35PM URINE  RBC-5* WBC-75* BACTERIA-FEW* YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 06:35PM URINE  RBC-5* WBC-75* BACTERIA-FEW* YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 06:35PM URINE  HYALINE-16*
___ 06:35PM URINE  MUCOUS-FEW*
___ 03:25PM   ___ PO2-29* PCO2-52* PH-7.39 TOTAL 
CO2-33* BASE XS-3
___ 03:25PM   LACTATE-2.0
___ 03:20PM   GLUCOSE-113* UREA N-23* CREAT-0.9 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-24 ANION GAP-14
___ 03:20PM   ALT(SGPT)-12 AST(SGOT)-16 ALK PHOS-43 TOT 
BILI-0.4
___ 03:20PM   cTropnT-<0.01
___ 03:20PM   proBNP-711*
___ 03:20PM   ALBUMIN-4.0
___ 03:20PM   TSH-5.3*
___ 03:20PM   WBC-9.4 RBC-5.19 HGB-14.2 HCT-46.1* MCV-89 
MCH-27.4 MCHC-30.8* RDW-15.2 RDWSD-49.2*
___ 03:20PM   NEUTS-75.2* LYMPHS-13.6* MONOS-7.3 EOS-2.6 
BASOS-0.6 IM ___ AbsNeut-7.03* AbsLymp-1.27 AbsMono-0.68 
AbsEos-0.24 AbsBaso-0.06
___ 03:20PM   PLT COUNT-257
___ 03:20PM   ___ PTT-32.9 ___
___ 12:18PM   UREA N-22* CREAT-0.8 SODIUM-140 POTASSIUM-4.6 
CHLORIDE-95* TOTAL CO2-30 ANION GAP-15
___ 12:18PM   estGFR-Using this
___ 12:18PM   ALT(SGPT)-12 AST(SGOT)-13 ALK PHOS-44 TOT 
BILI-0.4
___ 12:18PM   TOT PROT-6.4 ALBUMIN-4.3 GLOBULIN-2.1 
CALCIUM-9.6 PHOSPHATE-3.5
___ 12:18PM   WBC-7.3 RBC-5.10 HGB-13.9 HCT-45.1* MCV-88 
MCH-27.3 MCHC-30.8* RDW-15.3 RDWSD-49.3*
___ 12:18PM   NEUTS-69.1 LYMPHS-17.5* MONOS-9.7 EOS-2.5 
BASOS-0.4 IM ___ AbsNeut-5.07 AbsLymp-1.28 AbsMono-0.71 
AbsEos-0.18 AbsBaso-0.03
___ 12:18PM   PLT COUNT-247
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
===================
[] Patient got LINQ monitor implanted ___, has follow-up with 
EP device clinic
[] Patient was started on 180mg diltiazem daily while in the 
hospital for rate control of afib
[] Given worsening dyspnea with exertion, recommended TTE while 
inpatient, but given family preferred to take patient home, 
ordered for outpatient imaging
[] Repeat TSH and fT4 as outpatient as TSH mildly elevated on 
home levothyroxine

ASSESSMENT AND PLAN:
====================
Ms. ___ is a ___ woman with h/o lung cancer s/p left upper 
lobectomy, paroxysmal AFib on Apixaban, h/o syncope, who 
presented with syncope and was subsequently found to have AFib 
with RVR as well as urinary tract infection.

ACUTE ISSUES:
=============
# Syncope
Based on the history, likely secondary to postprandial 
hypotension, give that it occurred after eating with prodromal 
symptom of patient feeling "unwell". She was also orthostatic in 
the ED when going from supine (151/129; HR 114) to sitting 
(105/57; HR 125), and was given IV fluids overnight. In the ER, 
she was found to be in atrial fibrillation, with HR 130s-150s. 
She was seen by ___, who felt that the episode was likely to be 
vasovagal, but recommended starting the patient on diltiazem 
180mg daily, given that she was not on rate control at home. 
They also recommended placing a LINQ. EP placed LINQ ___, as 
below. Patient did not have audible murmurs on exam, but given 
her age, patient's reported dyspnea on exertion, and the fact 
that the patient's last known TTE was over ___ years ago per ___ 
records, we wanted to get a TTE for the patient before discharge 
to rule out aortic stenosis or outflow tract obstruction as 
possible etiology for syncope. However, patient and daughter 
preferred to go home and have this test done as an outpatient. 
The TTE was ordered in ___ and she will follow up results with 
her cardiologist.

# Atrial fibrillation with RVR
Patient with history of paroxysmal atrial fibrillation, 
presenting with syncope (as per above) and subsequently found to 
have AFib with RVR. EP was consulted, who recommended initiation 
of Diltiazem ER 180mg as well as LINQ. She had LINQ placed the 
morning after admission. We continued her home apixaban 5mg bid 
as well, and obtained a TSH to ensure appropriate dosing of 
levothyroxine. TSH was slightly elevated at 5.3, but we 
continued her home dose of levothyroxine. By the time the 
patient was on the floor she was in normal sinus rhythm with HRs 
in the ___.

# Uncomplicated UTI
Found to have infectious-appearing U/A with subacute increased 
urinary frequency/urgency and abdominal bloating. She was unsure 
when these symptoms started, however she believes they have been 
worse in the past week. She was given 1g IV Ceftriaxone once in 
the ED, and will be discharged on PO Bactrim DS for 2 additional 
days for a total 3-day course of antibiotics.

CHRONIC ISSUES:
===============
# Hypothyroidism
TSH was 5.3, slightly elevated. We continued the patient's home 
levothyroxine 75mg daily. Will need follow up TFTs.

CORE MEASURES
=============
#CODE: Full, presumed
#CONTACT: ___
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QWED 
2. Apixaban 5 mg PO BID 
3. Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Diltiazem Extended-Release 180 mg PO DAILY 
RX *diltiazem HCl 180 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 2 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*4 Tablet Refills:*0 
3.  Alendronate Sodium 70 mg PO QWED  
4.  Apixaban 5 mg PO BID  
5.  Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY  
6.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Syncope
Afib w/ RVR
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You presented to the hospital because you passed out and were 
found to have a fast heart rate (atrial fibrillation) and a 
urinary infection

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
- You were given fluids through your IV
- You were started on a new medication to treat your atrial 
fibrillation called diltiazem 
- You had a heart monitor device called a Linq implanted to 
monitor you as an outpatient 
- You were treated with antibiotics to treat your urine 
infection   

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
- Please go to ___ to have your echocardiogram done prior 
to your cardiology appointment 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___